US08211908B2
To a solution of 0.15 g of N-(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)-2,2,2-trifluoro-N-(piperidin-3-ylmethyl)acetamide in 2 mL of dichloromethane, 85 mg of (7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde and 24 μL of acetic acid were added, subsequently, 0.13 g of sodium triacetoxyborohydride was added, and the mixture was stirred at room temperature for 2 hours. To the reaction mixture, chloroform was added, and a saturated aqueous sodium hydrogen carbonate solution was added thereto under cooling with ice and adjusted to pH 8.0. The organic layer was separated and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 0.21 g of N-(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)-2,2,2-trifluoro-N-(1-(2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-3-ylmethyl)acetamide as a yellow solid. To 0.21 g of N-(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)-2,2,2-trifluoro-N-(1-(2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-3-ylmethyl)acetamide, 3 mL of methanol and 0.7 mL of water were added, and thereto was added 62 mg of potassium carbonate. The mixture was stirred at room temperature for 1 hour 15 minutes, then stirred at 40 to 50° C. for 1 hour, and stirred at 50 to 60° C. for 1 hour 30 minutes. The solvent was distilled off under reduced pressure, chloroform and water were added to the resultant residue, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using gradient elution with hexane:ethyl acetate=92:8 to 88:12 to obtain 0.18 g of 1-(2-(3-(((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)methyl)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one as a light yellow oily substance.

reactant | N-(2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)-2,2,2-trifluoro-N-(1-(2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-3-ylmethyl)acetamide | 0.21 g | O1CCOC=2C=NC(=CC21)CN(C(C(F)(F)F)=O)CC2CN(CCC2)CCN2C(C=CC1=NC=C(C=C21)F)=O | C26H27F4N5O4
reactant | methanol | 3 mL | CO | CH4O
reactant | potassium carbonate | 62 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 0.7 mL | O | H2O
product | 1-(2-(3-(((2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)amino)methyl)piperidin-1-yl)ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one | 0.18 g | O1CCOC=2C=NC(=CC21)CNCC2CN(CCC2)CCN2C(C=CC1=NC=C(C=C21)F)=O | C24H28FN5O3
